US09062032B2
To a mixture of 1.0 g of 3-(methylamino)propan-1-ol and 10 mL of methanol was added 3.0 g of di-tert-butyl dicarbonate under ice cooling, followed by stirring for 5 days at room temperature. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:7), thereby obtaining 2.05 g of tert-butyl(3-hydroxypropyl)methylcarbamate.

reactant | 3-(methylamino)propan-1-ol | 1.0 g | CNCCCO | C4H11NO
reactant | di-tert-butyl dicarbonate | 3.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 10 mL | CO | CH4O
product | tert-butyl(3-hydroxypropyl)methylcarbamate | 2.05 g | C(C)(C)(C)OC(N(C)CCCO)=O | C9H19NO3
